US04640918
A solution of 23.47 g of 4-(p-nitrophenyl)-tetrahydro-4H-1,4-thiazine in 1.5 l of dioxane is hydrogenated over Raney-nickel until the hydrogen uptake has finished. Thereafter, the catalyst is removed by filtration, washed well with dioxane and the filtrate is evaporated in vacuo. By recrystallization of the crude product from dichloromethane/ether, there is obtained 4-(p-aminophenyl)-tetrahydro-4H-1,4-thiazine of melting point 109°-111°.

reactant | 4-(p-nitrophenyl)-tetrahydro-4H-1,4-thiazine | 23.47 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCSCC1 | C10H12N2O2S
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 1.5 l | O1CCOCC1 | C4H8O2
catalyst | Raney-nickel | [Ni] | Ni
product | 4-(p-aminophenyl)-tetrahydro-4H-1,4-thiazine | NC1=CC=C(C=C1)N1CCSCC1 | C10H14N2S
